US04652561
To a solution of 0.8 g of (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one in 10 mL of pyridine (dried over potassiuwm hydroxide) in an ice-bath, 0.4 g of ethyl chloroformate was added dropwise then stored in the freezer overnight. The mixture was concentrated under reduced pressure and the residue was partitioned between ether and dilute sodium hydroxide. The ether solution was washed with brine then dried (magnesium sulfate) and removal of the solvent gave 0.9 g (97%) of (±)-cis-3-[(ethoxycarbonyl)oxy]-2,3-dihydro-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one. A sample was crystallized from ether--pet. ether, mp 168°-169°.

reactant | (±)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 0.8 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
reactant | ethyl chloroformate | 0.4 g | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (±)-cis-3-[(ethoxycarbonyl)oxy]-2,3-dihydro-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b]-1,4-thiazepin-4(5H)-one | 0.9 g, 97% | C(C)OC(=O)O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C27H30N2O5S
